
* OPA340
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA340
* Date: 24JUN2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS073B–SEPTEMBER 1997–REVISED NOVEMBER 2007
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
*
*                non-inverting input

*                |  inverting input

*                |  |  positive supply

*                |  |  |   negative supply

*                |  |  |   |   output

*                |  |  |   |   |
.SUBCKT OPA340   +  -  V+  V-  OUT

* INPUT STAGE
*
i1 V+ 5 150u
m7 550 vswitch 5 5 pix l=6u w=25u m=4
m8 550 550 V- V- nix l=6u w=25u m=4
m9 553a 550 V- V- nix l=6u w=25u m=4
m9c 66 nvsat 553a V- nix l=6u w=25u m=4
Vpvsat V+ vswitch DC 1.3
Vnvsat nvsat V- DC 1.37
iin1 + 98 .2p
iin2 - 98 .2p
d3 5 V+ dx
d4 V- 66 dx
d5 - V+ dx
d6 + V+ dx
d7 V- - dx
d8 V- + dx
m1 33 - 66 V- nix l=6u w=25u
m2 4 7 66 V- nix l=6u w=25u
m3 8 - 5 5 pix l=6u w=25u
m4 9 7 5 5 pix l=6u w=25u
eos 7 + poly(1) 25 98 0 0
ios - + 0p
r1 V+ 33 4.833k
r2 V+ 4 4.833k
r3 8 V- 4.833k
r4 9 V- 4.833k
*
* GAIN STAGE
*
eref 98 0 poly(2) V+ 0 V- 0 0 0.5 0.5
g1 98 21 poly(2) 4 33 9 8 0 145u 145u
rg 21 98 18.078e6
cc 21 OUT 10.5p
d1 21 22 dx
d2 23 21 dx
v1 V+ 22 1.37
v2 23 V- 1.37
*
* COMMON MODE GAIN STAGE
*
ecm 24 98 poly(2) + 98 - 98 0 0.5 0.5
r5 24 25 1e6
r6 25 98 10k
c1 24 25 0.75p
*
* OUTPUT STAGE
*
isy V+ V- 450.4u
gsy V+ V- poly(1) V+ V- -3.334e-4 6.667e-5
ep V+ 39 poly(1) 98 21 0.78925 1
en 38 V- poly(1) 21 98 0.78925 1
vh OUT 6h DC 1e-2
vl 6l OUT DC 1e-2 
m113 6h 39 V+ V+ pox l=1.5u w=1500u
m114 6l 38 V- V- nox l=1.5u w=1500u
c15 OUT 39 50p
c16 OUT 38 50p
.model dx d(rs=1 cjo=0.1p)
.model nix nmos(vto=0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.model nox nmos(vto=0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pix pmos(vto=-0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pox pmos(vto=-0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)
.ENDS OPA340
*ENDS OPA340
